US08022223B2
3-(5-bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)benzamide
3-(5-bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)benzoic acid (0.35 g, 0.83 mmol) was dissolved in DMF (5 mL). 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.24 g, 1.2 mmol), NH4Cl (0.133 g, 2.5 mmol) and HOBT-H2O (0.19 g, 1.2 mmol) were added. Triethylamine (0.29 mL, 2.1 mmol) was added last. The reaction stirred at room temperature overnight. The material was diluted with water and the solid was filtered to give the title compound (0.23 g, 67% yield). 1H NMR (DMSO-d6) δ 2.17 (s, 3H), 6.40 (bs, 1H), 7.48 (s, 1H), 7.53-7.56 (m, 2H), 7.90-7.96 (m, 2H), 8.08 (s, 1H), 8.27 (bs, 1H).

reactant | 3-(5-bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)benzoic acid | 0.83 mmol, 0.35 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)SC=1C=C(C(=O)O)C=CC1 | C16H12BrN3O2S2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.2 mmol, 0.24 g | Cl.CN(CCCN=C=NCC)C
reactant | NH4Cl | 2.5 mmol, 0.133 g | [NH4+].[Cl-]
reactant | HOBT H2O | 1.2 mmol, 0.19 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | Triethylamine | 2.1 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(5-bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)benzamide | 0.23 g, 67% yield | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)SC=1C=C(C(=O)N)C=CC1 | C16H13BrN4OS2
